US04684658
A suspension of 7-chloroformyl-5-(3-pyridyl)-2,3-dihydro-1H-pyrrolizine hydrochloride (14.1 g) in methylene chloride (250 cc) is saturated with a stream of anhydrous methylamine, while the temperature of the reaction mixture is kept at about 25° C. for 7 hours. The solution obtained is stirred at a temperature of about 20° C. for 16 hours and then methylene chloride (250 cc) and distilled water (250 cc) are added to it. The organic phase is separated, washed 3 times with distilled water (750 cc in total), dried over anhydrous magnesium sulphate, treated with decolourising charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 60° C. A crude product (12.2 g) melting at 184° 0 is thus obtained. This product is dissolved in boiling acetonitrile (150 cc). The solution obtained is treated with decolourising charcoal (0.5 g) and filtered hot. The filtrate is cooled at a temperature of about 4° C. for 1 hour. The crystals which have appeared are separated off by filtration, washed twice with acetonitrile (20 cc in total) cooled to a temperature of about 4° C. and 3 times with diethyl ether (75 cc in total), and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. in the presence of potassium hydroxide pellets. N-methyl-5-(3-pyridyl)-2,3-dihydro-1H-pyrrolizine-7-carboxamide (7.1 g) is thus obtained in the form of cream crystals melting at 187° C.

reactant | 7-chloroformyl-5-(3-pyridyl)-2,3-dihydro-1H-pyrrolizine hydrochloride | 14.1 g | Cl.ClC(=O)C=1C=C(N2CCCC12)C=1C=NC=CC1
reactant | methylamine | CN | CH5N
reactant | acetonitrile | 150 cc | C(C)#N | C2H3N
reactant | charcoal | 0.5 g | C | CH4
solvent | methylene chloride | 250 cc | C(Cl)Cl | CH2Cl2
product | N-methyl-5-(3-pyridyl)-2,3-dihydro-1H-pyrrolizine-7-carboxamide | 7.1 g | CNC(=O)C=1C=C(N2CCCC12)C=1C=NC=CC1 | C14H15N3O
